US07910588B2
{3′-[4-(1-Ethyl-1H-pyrazol-4-ylmethyl)-piperazin-1-yl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl}-methanol hydrochloride
To a solution of (3′-piperazin-1-yl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-methanol (0.145 g, 0.524 mmol, 1 eq) and 1-ethyl-1H-pyrazole-4-carbaldehyde (97.69 mg, 0.787 mmol, 1.5 eq) in 1,2-dichloroethane (10 mL) add sodium triacetoxyborohydride (166.79 mg, 0.787 mmol, 1.5 eq) in one portion as a solid. Stir the mixture at room temperature under nitrogen for 20 hr. Add 2 M aqueous sodium hydroxide solution (20 ml) and DCM (20 ml). Separate using a phase separator and extract the aqueous layer with DCM (10 ml). Concentrate the combined organic extracts and purify by high pH reverse phase HPLC. Dissolve this material (120 mg, 0.31 mmol) in the minimum quantity of 50% aqueous acetonitrile. Add 2 M aqueous hydrogen chloride (155 μL, 0.31 mmol) and lyophilize to give the title compound (127 mg, 58%). MS (m/z): 385.2 (M+1).

reactant | (3′-piperazin-1-yl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-methanol | 0.524 mmol, 0.145 g, 1 eq | N1(CCNCC1)C=1C(=NC=CC1)N1CCC(CC1)CO | C15H24N4O
reactant | 1-ethyl-1H-pyrazole-4-carbaldehyde | 0.787 mmol, 97.69 mg, 1.5 eq | C(C)N1N=CC(=C1)C=O | C6H8N2O
reactant | sodium triacetoxyborohydride | 0.787 mmol, 166.79 mg, 1.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2 M, 20 ml | [OH-].[Na+]
reactant | hydrogen chloride | 0.31 mmol, 2 M, 155 μL | Cl | ClH
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | {3′-[4-(1-Ethyl-1H-pyrazol-4-ylmethyl)-piperazin-1-yl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl}-methanol hydrochloride | 127 mg, 58% | Cl.C(C)N1N=CC(=C1)CN1CCN(CC1)C=1C(=NC=CC1)N1CCC(CC1)CO | InChI=1S/C21H32N6O.ClH/c1-2-27-16-19(14-23-27)15-24-10-12-25(13-11-24)20-4-3-7-22-21(20)26-8-5-18(17-28)6-9-26;/h3-4,7,14,16,18,28H,2,5-6,8-13,15,17H2,1H3;1H
